US05962718
Preparation of bis(trimethylsilylcyclopentadienyl) (phenyl)-borane
To 2.230 g (7.41 mmol) of (trimethylsilylcyclopentadienyl)-trimethyltin is added 0.59 g (0.48 ml, 3.7 mmol) of dichloro-(phenyl)borane dropwise at room temperature. An intense yellow color immediately appears. The mixture is heated at 40° C. for 2 h whereupon the yellow color intensifies. This is followed by fractional distillation wherein the chlorotrimethylstannane formed can first be separated off. In the distillation, a heavy decomposition occurs from about 120° C. bath temperature to give a dark-red oil.

reactant | (trimethylsilylcyclopentadienyl)-trimethyltin | 7.41 mmol, 2.230 g | C[Si](C)(C)C1(C=CC=C1)[Sn](C)(C)C
reactant | dichloro-(phenyl)borane | 3.7 mmol, 0.48 ml, 0.59 g | ClB(C1=CC=CC=C1)Cl | C6H5BCl2
product | bis(trimethylsilylcyclopentadienyl) (phenyl)-borane | C[Si](C)(C)C1(C=CC=C1)B(C1=CC=CC=C1)C1(C=CC=C1)[Si](C)(C)C | C22H31BSi2
